US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 22, using 1.00 g (3.84 mmol) of 4-amino-1-(3-phenoxypropyl)-5-imidazolecarboxamide prepared in the same manner as in Example 156 and 2-fluorobenzoyl chloride instead of benzoyl chloride to obtain 1.35 g of 4-(2-fluorobenzoylamino)-1-(3-phenoxypropyl)-5-imidazolecarboxamide (yield 92%).

reactant | 4-amino-1-(3-phenoxypropyl)-5-imidazolecarboxamide | 3.84 mmol, 1.00 g | NC=1N=CN(C1C(=O)N)CCCOC1=CC=CC=C1 | C13H16N4O2
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | 4-(2-fluorobenzoylamino)-1-(3-phenoxypropyl)-5-imidazolecarboxamide | 1.35 g, yield 92% | FC1=C(C(=O)NC=2N=CN(C2C(=O)N)CCCOC2=CC=CC=C2)C=CC=C1 | C20H19FN4O3
